US07304081B2
Step 4. 1-[4-(pyrrolidin-1-ylmethyl)phenyl]cyclopropanecarboxylic acid
A solution of 1-[4-(pyrrolidin-1-ylmethyl)phenyl]cyclopropanecarbonitrile (100 mg, 0.0004 mol) in ethanol (5 mL, 0.08 mol) and 50% NaOH (aq. 4 ml) and water (2 ml) was stirred at 100 celsius overnight. The mixture was then carefully adjusted to be slightly acidic (pH=6) and the precipitate formed was filtered and dried to afford the product. LC-MS: 246.1 (M+H)+

reactant | 1-[4-(pyrrolidin-1-ylmethyl)phenyl]cyclopropanecarbonitrile | 0.0004 mol, 100 mg | N1(CCCC1)CC1=CC=C(C=C1)C1(CC1)C#N | C15H18N2
reactant | ethanol | 0.08 mol, 5 mL | C(C)O | C2H6O
reactant | NaOH | 4 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 1-[4-(pyrrolidin-1-ylmethyl)phenyl]cyclopropanecarboxylic acid | N1(CCCC1)CC1=CC=C(C=C1)C1(CC1)C(=O)O | C15H19NO2
